US07585885B2
4-(R)-Hydroxypyrrolidine-N1,2-(R)-dicarboxylic acid 1-tert-butyl ester 2-methyl ester
Add di-tert-butyl dicarbonate (10.4 g, 47.7 mmol) in 1,4-dioxane (10 mL) to a solution of 4-(R)-hydroxypyrrolidine-2-(R)-carboxylic acid methyl ester hydrochloride (6.66 g, 36.7 mmol) in 1,4-dioxane (80 mL). Cool in an ice bath and add N,N-diisopropylethylamine (11 mL, 62.4 mmol), then remove ice bath and stir 1 h at room temperature. Concentrate and dissolve in ethyl acetate and wash with aqueous citric acid solution (2×100 mL), water, saturated aqueous sodium bicarbonate, saturated aqueous sodium chloride, dry (magnesium sulfate), filter and concentrate to give the title compound as a white solid (7.1 g, 79%). MS (ES): m/z=246.1 [M+H].

reactant | di-tert-butyl dicarbonate | 47.7 mmol, 10.4 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-(R)-hydroxypyrrolidine-2-(R)-carboxylic acid methyl ester hydrochloride | 36.7 mmol, 6.66 g | Cl.COC(=O)[C@@H]1NC[C@@H](C1)O
reactant | N,N-diisopropylethylamine | 62.4 mmol, 11 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 80 mL | O1CCOCC1 | C4H8O2
product | 4-(R)-Hydroxypyrrolidine-N1,2-(R)-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | 7.1 g, 79% | COC(=O)[C@@H]1N(C[C@@H](C1)O)C(=O)OC(C)(C)C | C11H19NO5
